US05254575
A suspension of 4-(4-hydroxyphenyl)-thiazole-2-carbonitrile (7 g), crushed potassium carbonate (13.1 g) and 1-(2-chloroethyl)piperidine hydrochloride (7.78 g) in dry dimethylformamide (60 ml) was stirred at room temperature for 28 h, and then added to water (400 ml). The precipitated solid was filtered, and then partitioned between dichloromethane and water. The organic layer was dried over sodium sulphate, filtered, and evaporated to dryness to give 4-[4-[2-(piperidin-1-yl)ethyloxy]phenyl]-thiazole-2-carbonitrile (10.1 g), m.p. 85°-86° C.

reactant | 4-(4-hydroxyphenyl)-thiazole-2-carbonitrile | 7 g | OC1=CC=C(C=C1)C=1N=C(SC1)C#N | C10H6N2OS
reactant | potassium carbonate | 13.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 7.78 g | Cl.ClCCN1CCCCC1
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-[4-[2-(piperidin-1-yl)ethyloxy]phenyl]-thiazole-2-carbonitrile | 10.1 g | N1(CCCCC1)CCOC1=CC=C(C=C1)C=1N=C(SC1)C#N | C17H19N3OS
